.subckt SampleHold SAMPLE Vin+ Vin- Vout+ Vout-
B1 N001 0 V=V(Vin+,Vin-)
S1 Vsmp N001 SAMPLE 0 SW
C1 Vsmp 0 1
B2 Vout+ Vout- V=V(Vsmp)
.ic V(Vsmp)=0V
.model SW SW(VT=0.5,Ron=1f,Roff=1T)
.ends SampleHold
